US04340740
90 mg of alpha-(butylthio)(m-benzoylphenyl)-acetonitrile was dissolved in 1 ml of anhydrous methanol, and 0.15 ml of a 2.7 M methanol solution of sodium methoxide was added in an atmosphere of argon under ice cooling, followed by addition of 0.05 ml of methyl iodide. The temperature of the mixture was brought to room temperature, and the mixture was stirred for 30 minutes. Water (20 ml) was added, and the mixture was extracted with 20 ml of ether three times. The extract was washed with 10 ml of water, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by column chromatography (silica gel; benzene) to afford 82 mg (yield 87%) of alpha-(butylthio)-alpha-(m-benzoylphenyl)propionitrile as a colorless oil.

reactant | alpha-(butylthio)(m-benzoylphenyl)-acetonitrile | 90 mg | C(CCC)SC(C#N)C1=CC(=CC=C1)C(C1=CC=CC=C1)=O | C19H19NOS
reactant | sodium methoxide | C[O-].[Na+]
reactant | methyl iodide | 0.05 ml | CI | CH3I
reactant | Water | 20 ml | O | H2O
solvent | methanol | 1 ml | CO | CH4O
solvent | methanol | 2.7 M | CO | CH4O
product | alpha-(butylthio)-alpha-(m-benzoylphenyl)propionitrile | 82 mg, yield 87% | C(CCC)SC(C#N)(C)C1=CC(=CC=C1)C(C1=CC=CC=C1)=O | C20H21NOS
